Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
diarrhea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with recent diagnosis of umbilical hernia presenting with
severe abdominal pain and mucousy, bloody stool. Reports 2 weeks
ago he had sudden onset abdominal pain when reaching for a 
shelf.
Presented to ___ and dx with umbilical hernia with
plan for surgical consultation on ___. 

In the interim, he endorses intermittent abdominal pain and
mucousy, loose stools.  He also has had occasional bloating
postprandially with some limitation to PO intake.  He had a 
tooth
extraction 3 weeks ago for infection, which he reports taking 2
one-week course of clindamycin.  The end of antibiotics 
coincided
with diagnosis of hernia and onset of diarrhea.

Prior to presentation today, patient reports severe diffuse
burning abdominal pain with streaks blood in stool. The morning
of presentation patient had 2 mucousy bowel movements but has 
not
had any since arriving to the hospital.  He also has not passed
any gas since presenting but denies increase in burping.  In the
ED he was seen by bariatric surgery who did not feel that his
presentation was c/w hernia pain and suspected the diarrhea 
could
be ___ to Cdiff given his recent abx use. 

ROS significant for dysuria. Denies hematuria, vomiting, chest
pain, fevers, chills. Denies hx of abdominal surgeries. 

ED Course (labs, imaging, interventions, consults): 

- Pertinent exam: diffuse tenderness. guarding, ?rebound. soft
umbilical hernia, no overlying skin changes
- Pertient labs: WBC 8.4, lactate 1.4
- CT AP w/ IV contrast revealing proctitis 
- Received 4 mg IV morphine x2, 1L LR + 900 ml LR, cipro/flagyl
for proctitis

 
Past Medical History:
Graves Disease
Spinal Stenosis s/p L5-S1 discectomy
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=========================
VITALS: reviewed in ED
GEN: NAD when laying flat, pleasant, comfortable
HEENT: Normocephalic, atraumatic, PERRL
CV: RRR, no m/g/r
PULM: CTAB in anterior fields without w/c/r
ABD: distended, umbilical hernia present, diffusely tender to
palpation, with increased pain on rebound. Umbilical hernia able
to be reduced, but with increased associated pain.
EXT: No ___ EDEMA

DISCHARGE PHYSICAL EXAM:
=========================
___ 0738 Temp: 97.6 PO BP: 113/72 L Lying HR: 64 RR: 18 O2
sat: 94% O2 delivery: Ra 
GENERAL: Pleasant, sitting in bed, comfortable
HEENT: Normocephalic, atraumatic, moist mucous membranes, sclera
anicteric
CARDIAC: Regular rate and rhythm, normal S1+S2, no
murmurs/rubs/gallops
LUNG: Normal work of breathing, clear to auscultation 
bilaterally
ABD: Nondistended, diffuse mild tenderness to palpation with 
more
tenderness in lower abdomen, active bowel sounds
EXT: Warm, well perfused, no lower extremity edema
NEURO: Alert, oriented, CN II-XII grossly intact, moving all
extremities
SKIN: No significant rashes
 
Pertinent Results:
ADMISSION LABS:
====================

___ 05:20PM BLOOD WBC-8.4 RBC-4.90 Hgb-14.4 Hct-44.1 MCV-90 
MCH-29.4 MCHC-32.7 RDW-12.2 RDWSD-40.3 Plt ___
___ 05:20PM BLOOD Glucose-111* UreaN-11 Creat-1.0 Na-143 
K-4.2 Cl-103 HCO3-25 AnGap-15
___ 05:20PM BLOOD Calcium-9.1 Mg-2.3
___ 05:54PM BLOOD Lactate-1.4

PERTINENT MICRO:
=================

FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   OVA + PARASITES (Final ___: 
      NO OVA AND PARASITES SEEN. 
      This test does not reliably detect Cryptosporidium, 
Cyclospora or
      Microsporidium. While most cases of Giardia are detected 
by routine
      O+P, the Giardia antigen test may enhance detection when 
organisms
      are rare. 
      FEW POLYMORPHONUCLEAR LEUKOCYTES. 
      FEW RBC'S. 
___ 08:00AM STOOL CDIFPCR-POS* CDIFTOX-NEG

PERTINENT IMAGING:
=====================

CT ABD AND PELVIS WITH CONTRAST
IMPRESSION: 
1. Mild thickening of the rectum with associated subtle 
hyperemia, without 
significant surrounding fat stranding.  This is nonspecific but 
may represent 
mild proctitis. 
2. Colonic diverticulosis without evidence of acute 
diverticulitis. 
3. Prostatomegaly. 
4. Moderate narrowing of the central canal at L4-L5 due to 
posterior disc 
bulge/disc osteophyte.

DISCHARGE LABS:
=================
___ 06:35AM BLOOD WBC-6.7 RBC-4.64 Hgb-13.8 Hct-42.1 MCV-91 
MCH-29.7 MCHC-32.8 RDW-12.3 RDWSD-40.5 Plt ___
___ 06:35AM BLOOD Glucose-83 UreaN-11 Creat-1.0 Na-144 
K-4.2 Cl-108 HCO3-26 AnGap-10
___ 06:35AM BLOOD Calcium-8.9 Phos-3.4 Mg-2.___RIEF HOSPITAL SUMMARY:
===============================
Mr. ___ is a ___ year old gentleman with a recently diagnosed 
umbilical hernia who had presented with several weeks of 
abdominal pain and watery and mucousy diarrhea sometimes 
streaked with blood. 

During this admission, Mr. ___ was seen by acute care surgery, 
who determined no surgical intervention was necessary. CT 
abdomen demonstrated possible proctitis. C.diff PCR was positive 
but toxin was negative. Other stool cultures (salmonella, 
shigella, campylobacter) were negative. Stool ova and parasites 
are still pending at the time of discharge. Of note, Mr. ___ 
reports that he drinks well water at home. 

Mr. ___ was empirically treated with one dose of cipro/flagyl 
and vancomycin prior to results. However given low concern for 
fulminant C.diff infection, antibiotics were discontinued. 
Ultimately, due to symptomatic worsening off PO vancomycin and 
no other clear cause of symptoms, decision was made to treat for 
mild cdiff colitis with 10 days of PO vancomycin. This was 
restarted with clinical improvement. 

#ACTIVE ISSUES
================
#Abdominal pain and diarrhea
Mr. ___ presented with several weeks of abdominal pain and 
watery diarrhea in the setting of having just completed a course 
of clindamycin for a dental infection. C.diff PCR was positive 
but toxin was negative. Given low suspicion for fulminant CDI 
with lack of fever and leukocytosis, Mr. ___ had been taken 
off vancomycin. However, with symptomatic worsening with 
increased pain, distension, and diarrhea, the decision was made 
to treat C.diff with a full 10 day course of vancomycin. Stool 
otherwise negative for salmonella, shigella, and campylobacter. 
Ova and parasites are pending. Notably, patient reports water 
source is well water at home, although water is "treated". If 
persistent diarrhea despite treatment for cdiff, would consider 
further evaluation for ova and parasites as well as GI f/u for 
flex sigmoidoscopy.  

#Umbilical Hernia
It is likely that the umbilical hernia is in part contributing 
to the pain. However, hernia has never been incarcerated or 
strangulated and will be followed up with surgical intervention 
as outpatient surgery. Dr. ___ Mr. ___ while in patient 
and Mr. ___ schedule the surgery when he is recovered 
from this admission.

#CHRONIC ISSUES
================
None

#TRANSITIONAL ISSUES
====================
[] Patient reports that he drinks well water at home. Stool ova 
and parasites still pending. Please follow up labs and treat 
accordingly.
[] Please follow up patient's symptoms. If pain/diarrhea do not 
resolve after vancomycin course, consider referral to GI for 
sigmoidoscopy.
[] Please counsel patient on when would be an appropriate time 
to schedule umbilical hernia repair with Dr. ___.
 
Medications on Admission:
Multivitamin
Fish oil
Melatonin
 
Discharge Medications:
1.  Vancomycin Oral Liquid ___ mg PO QID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Abdominal pain
Diarrhea
Proctitis

SECONDARY DIAGNOSIS
===================
Umbilical hernia

 
Discharge Condition:
Mental Status: Alert and oriented.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory

 
Discharge Instructions:
Dear Mr. ___,

It was a privilege taking care of you at ___ 
___. 

WHY WAS I ADMITTED TO THE HOSPITAL?
===================================
- You were admitted to the hospital because you had severe 
abdominal pain in the setting of several weeks of watery, 
mucousy diarrhea with some blood.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
==========================================
- While you were in the hospital, you were seen by our acute 
care surgical team to evaluate for the involvement of your 
umbilical hernia in your pain.  It was determined that surgical 
intervention was not necessary at this time.
- It was determined that you could potentially have an infection 
called Clostridium difficile.  You were treated with an oral 
antibiotic called vancomycin.
- You also underwent a CT scan of your abdomen and found to have 
possible inflammation of your rectum.  This may be because of 
the long duration of diarrhea irritating the rectum.
- Dr. ___ came to see you in the hospital to discuss surgical 
planning for your umbilical hernia.  He did not think the hernia 
was contributing to your diarrhea and confirmed with you that 
you will call to schedule surgery after you recover from this 
admission.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
============================================ 
Follow-Up Appointments
- Please follow up with your primary care physician as scheduled 
below.
- Please call Dr. ___ office to schedule your surgery for 
umbilical hernia repair.  Your primary care physician ___ help 
you determine when surgery would be appropriate.  You will NOT 
need to go to the appointment scheduled for ___ ___ was able to see you in the hospital.

Medications
- Please continue to take the antibiotic vancomycin 125mg by 
mouth once daily for a total of 10 days.  Your last dose will be 
on ___.
- Please continue to take all of your home medications.

We wish you all the best!

Sincerely, 
Your ___ Care Team
 
Followup Instructions:
___